US04935536
Example 2 - Preparation of Fmoc-Gln(Tmob)-OH
N'(2,4,6-trimethoxybenzyl)-L-glutamine (0.97 g, 3 mmol) was reacted with Fmoc-succinimide as described in Step 3 of Example 1 to give 1.23 g (78%), thin layer chromatography 1 spot Rf 0.35 chloroform/methanol/acetic acid (90:5:5).

reactant | N'(2,4,6-trimethoxybenzyl)-L-glutamine | 3 mmol, 0.97 g | COC1=C(CNC(CC[C@H](N)C(=O)O)=O)C(=CC(=C1)OC)OC | C15H22N2O6
reactant | Fmoc-succinimide | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)C1C(=O)NC(C1)=O | C19H15NO4
solvent | chloroform methanol acetic acid | C(Cl)(Cl)Cl.CO.C(C)(=O)O
product | Fmoc-Gln(Tmob)-OH | N([C@@H](CCC(NCC1=C(OC)C=C(OC)C=C1OC)=O)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C30H32N2O8
